US07960365B2
A mixture of 3-bromo-5-fluoro-2-methoxy-pyridine (1.0 g, 4.9 mmol), 4-acetylphenylboronic acid (1.59 g, 9.7 mmol), tetrakis(triphenylphosphine)palladium (0) (0.28 g, 0.24 mmol), 2M aqueous sodium carbonate solution (2.4 ml) and 1,2-dimethoxyethane (5 ml) was heated in a microwave oven at 150° C. for 20 min. The solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic phase was washed with water, brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue chromatographed on silica gel eluting with 3:1 heptane/ethyl acetate to give 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethanone (1.0 g, 4.0 mmol, 82%). 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethanone (1.0 g, 4.1 mmol) was treated with sodium borohydride (4.0 eq) in tetrahydrofuran and dichloromethane at room temperature. The solvent was evaporated to give 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethanol (0.51 g, 2.1 mmol, 51%). To a solution 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethanol (0.5 g, 2.0 mmol) in tetrahydrofuran (5 ml) was added triphenylphosphine (0.63 g, 2.4 mmol) and pthalimide (0.35 g, 2.4 mmol). The reaction was cooled to below 5° C. before adding diethylazodicarboxylate (0.42 g, 2.4 mmol) in a dropwise manner maintaining the temperature below 5° C. The reaction mixture was stirred for 24 h at room temperature. The solvent was evaporated and the residue partitioned between ethyl acetate and water.

reactant | 3-bromo-5-fluoro-2-methoxy-pyridine | 4.9 mmol, 1.0 g | BrC=1C(=NC=C(C1)F)OC | C6H5BrFNO
reactant | 4-acetylphenylboronic acid | 9.7 mmol, 1.59 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | sodium carbonate | 2M, 2.4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.24 mmol, 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 1-[4-(5-fluoro-2-methoxy-pyridin-3-yl)-phenyl]-ethanone | 4.0 mmol, 1.0 g, 82% | FC=1C=C(C(=NC1)OC)C1=CC=C(C=C1)C(C)=O | C14H12FNO2
